US04550103
A mixture of 7.15 g (26.3 mmole) 1-(phenylmethyl)-N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine 100 ml of methanol and 0.7 g of 20% palladium on carbon was shaken in an atmosphere of hydrogen at about 50 psi and at room temperature for 24 hours. The catalyst was filtered and the filtrate evaporated under reduced pressure. The residue was distilled under vacuum, bp 63°-65° C. (2.8 mm), to give 2.55 g of N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine.

reactant | 1-(phenylmethyl)-N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine | 26.3 mmole, 100 ml, 7.15 g | C1(=CC=CC=C1)CN1CC(CC1)CNCC(F)(F)F | C14H19F3N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine | 2.55 g | FC(CNCC1CNCC1)(F)F | C7H13F3N2
